US09340546B2
Sodium hydride (37.70 mg, 0.9425 mmol) was added to a stirred suspension of tert-butyl N-(5-iodo-4-methoxy-2-pyridyl)carbamate (300 mg, 0.8568 mmol) in DMF (3 mL) and the reaction was stirred at 0° C. for 15 minutes. MeI (145.9 mg, 63.99 μL, 1.028 mmol) was added and the reaction allowed to warm to ambient temperature over 1 hour. The mixture was quenched by the addition of water, diluted with EtOAc and the layers separated. The organic layer washed with saturated aqueous NaHCO3 (×1), brine (×2), dried (MgSO4) filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 40 g column, eluting with 0 to 30% EtOAc/Petroleum Ether, loaded in DCM) to give tert-butyl (5-iodo-4-methoxypyridin-2-yl)(methyl)carbamate as a colourless oil (269 mg, 86% Yield). MS (ES+-t-Bu) 309.4.

reactant | Sodium hydride | 0.9425 mmol, 37.70 mg | [H-].[Na+]
reactant | tert-butyl N-(5-iodo-4-methoxy-2-pyridyl)carbamate | 0.8568 mmol, 300 mg | IC=1C(=CC(=NC1)NC(OC(C)(C)C)=O)OC | C11H15IN2O3
reactant | MeI | 1.028 mmol, 63.99 μL, 145.9 mg | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl (5-iodo-4-methoxypyridin-2-yl)(methyl)carbamate | 269 mg, 86% Yield | IC=1C(=CC(=NC1)N(C(OC(C)(C)C)=O)C)OC | C12H17IN2O3
